US07074798B2
b) 4-[1-(2,2-Dimethylpropionyloxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-Benzyl-1-(2,2-dimethylpropionyloxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (2.227 g) was dissolved in acetic acid (100 ml), and 10% palladium on carbon (1 g) was added thereto. The reaction mixture was stirred under hydrogen atmosphere at room temperature overnight, filtered, and the filtrate was concentrated to give 1.89 g of the title compound.

reactant | 4-[7-Benzyl-1-(2,2-dimethylpropionyloxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 2.227 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC1=CC=CC=C1)=O)COC(C(C)(C)C)=O)=O)C | C28H38N6O6
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 4-[1-(2,2-Dimethylpropionyloxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.89 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1)=O)COC(C(C)(C)C)=O)=O)C | C21H32N6O6
